US06194409B1
1a. 6-Bromoisoquinoline N-oxide hydrochloride
To a stirred solution of 13.2 g of 6-bromoisoquinoline (Tyson, F. L., J. Am. Chem. Soc. 61, 183 (1939)) in 250 mL of dichloromethane at room temperature was added in portions 16.2 g of m-chloroperbenzoic acid (purity 70%). After stirring the mixture for one hour 200 mL of methanol was added and the bulk was reduced to 150 mL. A hydrogen chloride solution in methanol (100 mL, 0.75 M) was added and after slightly heating a clear solution was obtained. Diethylether (250 mL) was added to this solution and cooled in an ice bath. The hydrochloride salt precipitated and was isolated by filtration to give 15 g of la. M.p. 194-196° C.

reactant | 6-bromoisoquinoline | 13.2 g | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | m-chloroperbenzoic acid | 16.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | hydrogen chloride | Cl | ClH
reactant | Diethylether | 250 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | methanol | 0.75 M, 100 mL | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 6-Bromoisoquinoline N-oxide hydrochloride | Cl.BrC=1C=C2C=C[N+](=CC2=CC1)[O-] | InChI=1S/C9H6BrNO.ClH/c10-9-2-1-8-6-11(12)4-3-7(8)5-9;/h1-6H;1H
